US08710038B2
1,1-Dimethylethyl {4-[(1z)-1-hydroxy-3-oxo-3-phenylprop-1-en-1-yl]phenyl}carbamate:
NaH (60% dispersion, 0.388 g, 16.2 mmol) was added to a solution of methyl benzoate (0.629 g, 4.62 mmol) and 1,1-dimethylethyl (4-acetylphenyl)carbamate (N-BOC-4-aminoacetophenone 1.09 g, 4.62 mmol) in anhydrous DMF (20 mL) at 0° C. The reaction was allowed to warm to room temperature overnight then quenched with saturated aqueous NH4Cl and neutralized with 1M HCl. The reaction was diluted with ethyl acetate (80 mL) and the organic layer washed successively with saturated aqueous NaHCO3 and brine. The organic phase was separated and dried over Na2SO4, filtered, and concentrated in vacuo to provide the condensation product as a yellow oil (1.31 g, 83% yield). The product was used in the subsequent step without further purification.

reactant | NaH | 16.2 mmol, 0.388 g | [H-].[Na+]
reactant | methyl benzoate | 4.62 mmol, 0.629 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | 1,1-dimethylethyl (4-acetylphenyl)carbamate | 4.62 mmol, 1.09 g | C(C)(=O)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C13H17NO3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl {4-[(1z)-1-hydroxy-3-oxo-3-phenylprop-1-en-1-yl]phenyl}carbamate | 1.31 g, 83% yield | O\C(=C/C(C1=CC=CC=C1)=O)\C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C20H21NO4
